US06632899B2
[N,N′-bis(3,5-di-tert-butyl-2-hydroxyphenylmethyl)-N,N′-dibenzylethylenediamine] 9.
A mixture of 2,4-di-tert-butylphenol (50 mmol), N,N′-dibenzylethylenediamine (25 mmol) and 37% aqueous formaldehyde (50 mmol) was stirred in refluxing methanol for 2 h. The mixture was cooled to room temperature and the resulting oil was separated from the aqueous layer which was discarded, and evaporated. The product was then precipitated with hexanes, filtered and washed with hexanes, yielding ligand precursor 9 in 40%. Spectroscopic data (not shown) supports formation of ligand precursor 9.

reactant | 2,4-di-tert-butylphenol | 50 mmol | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | N,N′-dibenzylethylenediamine | 25 mmol | C(C1=CC=CC=C1)NCCNCC1=CC=CC=C1 | C16H20N2
reactant | formaldehyde | 50 mmol | C=O | CH2O
reactant | methanol | CO | CH4O
product | N,N′-bis(3,5-di-tert-butyl-2-hydroxyphenylmethyl)-N,N′-dibenzylethylenediamine | C(C)(C)(C)C=1C(=C(C=C(C1)C(C)(C)C)CN(CCN(CC1=CC=CC=C1)CC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O)CC1=CC=CC=C1)O | C46H64N2O2
